US07199239B2
[4-({Butyl[6-(4-methylphenyl)pyrazin-2-yl]amino}methyl)-2-methylphenoxy]acetic acid
To a solution of ethyl [4-({butyl[6-(4-methylphenyl)pyrazin-2-yl]amino}methyl)-2-methylphenoxy]acetate (39 mg, 0.087 mmol) in methanol (1 mL) and tetrahydrofuran (1 mL), was added 2M sodium hydroxide (1 mL). After shaking for 1 h at room temperature the solvent was evaporated and the residue was then acidified with 2M HCl and extracted CH2Cl2 (2×10 mL). The organic solution separated by hydrophobic frit and the solvents removed in vacuo to afford the title compound as a bright yellow solid (34 mg).

reactant | ethyl [4-({butyl[6-(4-methylphenyl)pyrazin-2-yl]amino}methyl)-2-methylphenoxy]acetate | 0.087 mmol, 39 mg | C(CCC)N(C1=NC(=CN=C1)C1=CC=C(C=C1)C)CC1=CC(=C(OCC(=O)OCC)C=C1)C | C27H33N3O3
reactant | sodium hydroxide | 2M, 1 mL | [OH-].[Na+]
solvent | methanol | 1 mL | CO | CH4O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | [4-({Butyl[6-(4-methylphenyl)pyrazin-2-yl]amino}methyl)-2-methylphenoxy]acetic acid | 34 mg | C(CCC)N(C1=NC(=CN=C1)C1=CC=C(C=C1)C)CC1=CC(=C(OCC(=O)O)C=C1)C | C25H29N3O3
